US06300334B1
b) (±)-6-[1-Hydroxy-1-(benzothiazol-2-yl)methyl]-3-methyl-1-(2-methylpropyl)thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione
Lithium diisopropylamide (2.25 mmol) was added to a solution of benzothiazole (230 mg) in tetrahydrofuran (10 ml) at −78° C. After 5 minutes 1,2,3,4-tetrahydro-3-methyl-1-(2-methylpropyl)-2,4-dioxothieno[2,3-d]pyrimidine-6-carboxaldehyde (300 mg) was added and the reaction mixture kept at −78° C. After a further 30 minutes saturated sodium hydrogen carbonate solution was added and the reaction mixture was allowed to warm to room temperature. The mixture was extracted with ethyl acetate, dried over magnesium sulfate and evaporated. Purification by chromatography eluting with isohexane:ethyl acetate (2:1 to 1:2) gave the title compound as an oil (150 mg).

reactant | Lithium diisopropylamide | 2.25 mmol | C(C)(C)[N-]C(C)C.[Li+]
reactant | benzothiazole | 230 mg | S1C=NC2=C1C=CC=C2 | C7H5NS
reactant | 1,2,3,4-tetrahydro-3-methyl-1-(2-methylpropyl)-2,4-dioxothieno[2,3-d]pyrimidine-6-carboxaldehyde | 300 mg | CN1C(N(C2=C(C1=O)C=C(S2)C=O)CC(C)C)=O | C12H14N2O3S
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | (±)-6-[1-Hydroxy-1-(benzothiazol-2-yl)methyl]-3-methyl-1-(2-methylpropyl)thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione | 150 mg | OC(C=1SC2=C(N1)C=CC=C2)C2=CC1=C(N(C(N(C1=O)C)=O)CC(C)C)S2 | C19H19N3O3S2
